US05041460
f. Methyl 4-(5-formylmethyl-1-propylindol- 3-ylmethyl)-3-methoxybenzoate
A solution of methyl 4-[5-(2,2-dimethoxyethyl)-1-propylindol-3-ylmethyl]-3-methoxybenzoate (0.46 g) in tetrahydrofuran (7 ml) and b 1M hydrochloric acid (3.6 ml) was stirred at ambient temperature for 11 h, under a nitrogen atmosphere. The mixture was poured onto water, extracted with ethyl acetate (twice), and the extract washed with water (twice), brine, and then dried (MgSO4). The solvent was evaporated to give a dark oil which was used in the next step without further purification.

reactant | methyl 4-[5-(2,2-dimethoxyethyl)-1-propylindol-3-ylmethyl]-3-methoxybenzoate | 0.46 g | COC(CC=1C=C2C(=CN(C2=CC1)CCC)CC1=C(C=C(C(=O)OC)C=C1)OC)OC | C25H31NO5
reactant | hydrochloric acid | 1M, 3.6 ml | Cl | ClH
solvent | tetrahydrofuran | 7 ml | O1CCCC1 | C4H8O
product | Methyl 4-(5-formylmethyl-1-propylindol- 3-ylmethyl)-3-methoxybenzoate | C(=O)CC=1C=C2C(=CN(C2=CC1)CCC)CC1=C(C=C(C(=O)OC)C=C1)OC | C23H25NO4
